** sch_path: /foss/designs/modulo3/lab02/xschem/inverter.sch
.subckt inverter VDD IN OUT GND
*.PININFO IN:I OUT:O VDD:B GND:B
XM1 OUT IN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM2 OUT IN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 m=1
.ends
