** sch_path: /foss/designs/modulo5/lab01/xschem/cdac_complete.sch
**.subckt cdac_complete VDD GND SMPL_not Vout Vin SMPL Vref ctrl[7],ctrl[6],ctrl[5],ctrl[4],ctrl[3],ctrl[2],ctrl[1],ctrl[0]
*.ipin VDD
*.ipin GND
*.ipin Vref
*.ipin Vin
*.opin Vout
*.ipin SMPL
*.ipin SMPL_not
*.ipin ctrl[7],ctrl[6],ctrl[5],ctrl[4],ctrl[3],ctrl[2],ctrl[1],ctrl[0]
x1 Vout Vref net5 net6 net3 net4 net7 net2 net1 net8 cdac
x2 net8 net3 net6 net5 net1 net4 net7 net2 VDD ctrl[5] ctrl[6] ctrl[7] ctrl[1] ctrl[4] ctrl[2] ctrl[3] ctrl[0] Vref GND
+ switch_bank
x3 Vin GND SMPL_not SMPL VDD Vout passgate
* tap: ctrl[7:0] --> ctrl[7]
* tap: ctrl[7:0] --> ctrl[6]
* tap: ctrl[7:0] --> ctrl[5]
* tap: ctrl[7:0] --> ctrl[4]
* tap: ctrl[7:0] --> ctrl[3]
* tap: ctrl[7:0] --> ctrl[2]
* tap: ctrl[7:0] --> ctrl[1]
* tap: ctrl[7:0] --> ctrl[0]
**.ends

* expanding   symbol:  cdac.sym # of pins=10
** sym_path: /foss/designs/modulo5/lab01/xschem/cdac.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/cdac.sch
.subckt cdac VOUTP Vref BP3 BP2 BP5 BP4 BP1 BP6 BP7 BP0
*.ipin Vref
*.opin VOUTP
*.ipin BP0
*.ipin BP1
*.ipin BP2
*.ipin BP3
*.ipin BP4
*.ipin BP5
*.ipin BP6
*.ipin BP7
XC1 Vref VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XC2 BP0 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XC3 BP1 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=2 m=2
XC4 BP2 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=4 m=4
XC5 BP3 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=8 m=8
XC6 BP4 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=16 m=16
XC7 BP5 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=32 m=32
XC8 BP6 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=64 m=64
XC9 BP7 VOUTP sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=128 m=128
.ends


* expanding   symbol:  switch_bank.sym # of pins=19
** sym_path: /foss/designs/modulo5/lab01/xschem/switch_bank.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/switch_bank.sch
.subckt switch_bank BP0 BP5 BP2 BP3 BP7 BP4 BP1 BP6 VDD ctrl5 ctrl6 ctrl7 ctrl1 ctrl4 ctrl2 ctrl3 ctrl0 Vref GND
*.ipin Vref
*.ipin GND
*.iopin BP7
*.iopin BP6
*.iopin BP5
*.iopin BP4
*.iopin BP3
*.iopin BP2
*.iopin BP1
*.iopin BP0
*.ipin VDD
*.ipin ctrl7
*.ipin ctrl6
*.ipin ctrl5
*.ipin ctrl4
*.ipin ctrl3
*.ipin ctrl2
*.ipin ctrl1
*.ipin ctrl0
x1 VDD GND ctrl7 BP7 Vref T_gate
x2 VDD GND ctrl6 BP6 Vref T_gate
x3 VDD GND ctrl5 BP5 Vref T_gate
x4 VDD GND ctrl4 BP4 Vref T_gate
x5 VDD GND ctrl3 BP3 Vref T_gate
x6 VDD GND ctrl2 BP2 Vref T_gate
x7 VDD GND ctrl1 BP1 Vref T_gate
x8 VDD GND ctrl0 BP0 Vref T_gate
.ends


* expanding   symbol:  passgate.sym # of pins=6
** sym_path: /foss/designs/modulo5/lab01/xschem/passgate.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/passgate.sch
.subckt passgate Vin gnd !CTRL CTRL Vdd Vout
*.ipin CTRL
*.ipin !CTRL
*.iopin Vin
*.iopin Vout
*.ipin Vdd
*.ipin gnd
XM3 Vin CTRL Vout gnd sky130_fd_pr__nfet_01v8_lvt L=0.15 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333
+ nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM1 Vin !CTRL Vout Vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=12 nf=1 ad=3.48 as=3.48 pd=24.58 ps=24.58 nrd=0.0241666666666667
+ nrs=0.0241666666666667 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  T_gate.sym # of pins=5
** sym_path: /foss/designs/modulo5/lab01/xschem/T_gate.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/T_gate.sch
.subckt T_gate VDD GND Ctrl Vout Vref
*.ipin Ctrl
*.iopin Vout
*.iopin VDD
*.iopin GND
*.iopin Vref
x1 VDD Ctrl net1 GND inverter
XM1 GND net1 Vout GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM2 GND Ctrl Vout VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM3 Vref Ctrl Vout GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM4 Vref net1 Vout VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /foss/designs/modulo5/lab01/xschem/inverter.sym
** sch_path: /foss/designs/modulo5/lab01/xschem/inverter.sch
.subckt inverter VDD IN OUT GND
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin GND
XM1 OUT IN GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 OUT IN VDD VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
.ends

.end
